* Test NOISE mode support for the FIND-AT, FIND-WHEN and WHEN measures.
* It was deemed sufficient to mostly just test with the VR and VI operators.
* Expressions are also tested. One current operator (IM) is tested for a
* branch current.
*
* See SON Bug 1301 for more details.
********************************************************************

* RESISTOR DIVIDER
V1  1 0 DC 5.0 AC  1.0
R1  1 2 100K
R2  2 0 100K
*
* AMP AND HP FILTER
EAMP   3 0 2 0 1
CLP1   3 4  2e-4
RLP1a  4 5 50
RLP1b  5 0 50

.NOISE  V(4)  V1  DEC  10 1 100
.PRINT NOISE VM(4) VR(4) VI(4) VM(5) VR(5) VI(5)

* WHEN
.MEASURE NOISE whenvr4 WHEN vr(4)=0.4
.MEASURE NOISE whenvi4 WHEN vi(4)=0.15

* FIND-WHEN
.MEASURE NOISE whenvr3 FIND VM(5) WHEN vr(4)=0.4
.MEASURE NOISE whenvi3 FIND VM(5) WHEN vi(4)=0.15

* FIND-AT
.MEASURE NOISE at10 FIND vr(4) at 1e1
.MEASURE NOISE at30 FIND vi(4) at 3e1
.MEASURE NOISE at50 FIND {vi(4)+1} at 5e1

* Expressions with WHEN measure
.MEASURE NOISE whenExp1 when vr(4)=vi(4)
.MEASURE NOISE whenExp2 when {vm(4)+0.1}=0.5
.MEASURE NOISE whenExp3 when vm(4)={0.3+0.1}
.MEASURE NOISE whenExp4 when vr(4)={vi(4)+0.3}

* Expressions, with FIND-WHEN measure
.MEASURE NOISE findvm3awhenvm4Exp1 find vm(5) when {vm(4)+0.1}=0.5
.MEASURE NOISE findvm3awhenvm4Exp2 find vm(5) when vm(4)={0.3+0.1}
.MEASURE NOISE findvm3awhenvm4Exp3 find {vm(5)+1} when {vm(4)+0.1}=0.5
.MEASURE NOISE findvm3awhenvm4Exp4 find {vm(5)+1} when vm(4)={0.3+0.1}
.MEASURE NOISE findvr3awhenvm4Exp5 find vr(5) when vr(4)=vi(4)

* Use of other measures in WHEN and FIND-WHEN
.MEASURE NOISE eqnvm5 EQN {vm(5)}
.MEASURE NOISE wheneqnvm5 when EQNVM5=0.1
.MEASURE NOISE findwheneqnvm5 find eqnvm5 when vm(4)=0.4

* Use of FREQ special variable in FIND measure.  (Note: this is
* essentially a bad way to do a WHEN measure, but it should work.)
.MEASURE NOISE findFreqwhenvm4 find {FREQ} when vm(4)= 0.4

* FROM
.MEASURE NOISE whenvi4from10 when vi(4)=0.21 FROM=10

* Test that the interpolated WHEN frequency is within the measure window.
* So, the first and third measures should find the first time vi(b)=0.1.
* The second one should find the second time.
.MEASURE NOISE whenvi4from4 when vi(4)=0.21 FROM=4
.MEASURE NOISE whenvi4from5 when vi(4)=0.21 FROM=5
.MEASURE NOISE whenvi4ft when vi(4)=0.21 FROM=4 TO=5

* The second measure should fail.
.MEASURE NOISE whenvr4to25 when vr(4)=0.45 TO=25
.MEASURE NOISE whenvr4to20 when vr(4)=0.45 TO=20

* measures should fail
.measure noise FAIL1 WHEN vm(4)=2
.measure noise FAIL2 FIND vm(5) WHEN vm(4)=2
.measure noise FAIL3 FIND vm(5) AT=1e7

* Tests should return -1 or -100, since the FROM-T0 window
* has various problems.
.measure noise whenReturnNegOne WHEN vm(4)=0.5 FROM=1e3 TO=1e4
.measure noise findWhenReturnNeg100 FIND vm(5) WHEN vm(4)=0.5 FROM=100 TO=1 DEFAULT_VAL=-100

* FROM and TO qualifiers take precedence over AT.
* So, these are failed measures.
.MEASURE NOISE atFailFrom find VI(4) AT=8 FROM=10
.MEASURE NOISE atFailTo find VI(4) AT=8 TO=5

.END
